Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Grave's disease
 
Major Surgical or Invasive Procedure:
total thyroidectomy
 
Past Medical History:
 - polysubstance use disorder (opiates, cocaine, 
methamphetamines, alcohol)  
 - asthma  
 - anxiety  
 
Social History:
___
Family History:
 - mother with thyroid disease of unknown type, DM, HTN, breast 
cancer at age ___  
 - father with testicular cancer (at age ___, brain tumor (at 
age ___, and stroke. 
 
Physical Exam:
General: NAD, AOx3
HEENT: Neck incision clean, dry, intact, without evidence of 
hematoma, no drainage from wound
Resp: normal work of breathing on room air
Ext: warm, well perfused
 
Pertinent Results:
___ 05:13PM BLOOD ___-39
___ 05:42AM BLOOD Calcium-9.2
 
Brief Hospital Course:
Mr. ___ presented to ___ holding at ___ on ___ for 
a total thyroidectomy for Grave's disease. He tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management.

Neuro: Pain was well controlled on oxycodone 5mg, morphine 
sulfate, and ibuprofen. Due to his history of opioid and cocaine 
abuse, his home suboxone was held perioperatively. His regular 
pain provider is ___. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. 
GI: The patient was started on a clear liquid diet and advanced 
to a regular diet at time of discharge. Patient's intake and 
output were closely monitored. He tolerated well without nausea 
or vomiting.
GU: Voided independently and appropriately.

On ___, the patient was discharged to home. At discharge, 
he was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. He will follow-up in the clinic with 
Dr. ___ in 4 weeks. This information was communicated to 
the patient directly prior to discharge.

 
Medications on Admission:
albuterol 
atenolol 12.5
suboxone ___ tabs PRN (held before surgery)
flunisolide BID 
methimazole 15mg
 
Discharge Medications:
albuterol 
atenolol 12.5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grave's disease s/p total thyroidectomy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. You will be discharged home on thyroid hormone 
replacement and calcium supplement, please take as prescribed. 
Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth/fingertips or muscle cramps in your legs. If you 
experience any of these symptoms please call Dr. ___ 
___ for advice or if you have severe symptoms go to the 
emergency room. 
Please resume all regular home medications, except for your 
methimazole and your suboxone, which you should not restart 
until you have seen your regular narcotics provider. You will be 
given a prescription for narcotic pain medication (oxycodone), 
please take as prescribed. We will notify your regular narcotics 
provider as well. It is recommended that you take a stool 
softener such as Colace while taking oral narcotic pain 
medication to prevent constipation. You may also take 
acetaminophen (Tylenol) as directed, but do not exceed 4000 mg 
in one day. Please get plenty of rest, continue to walk several 
times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Thank you for allowing us to participate in your care.
 
Followup Instructions:
___